US09283224B2
Step 1: 1-Ethyl-4-(trifluoromethyl)benzene
A solution of 1-ethenyl-4-(trifluoromethyl)benzene (1.72 mL, 11.6 mmol) in THF (60 mL) was stirred in the presence of Pd/C (10%, 400 mg), under a hydrogen atmosphere (45 psi) for 7 h. The solid was filtered through celite (washed with DCM) and the filtrate was carefully concentrated, keeping the temperature of the bath below 20° C. at 200 mmHg. The concentrated solution thus obtained was used in the next step without further manipulation.

reactant | 1-ethenyl-4-(trifluoromethyl)benzene | 11.6 mmol, 1.72 mL | C(=C)C1=CC=C(C=C1)C(F)(F)F | C9H7F3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 1-Ethyl-4-(trifluoromethyl)benzene | C(C)C1=CC=C(C=C1)C(F)(F)F | C9H9F3
